US04053296
A mixture of 93.0 g (0.5 mole) of ferrocene, 250 ml of acetic anhydride and 20 ml of 85% strength phosphoric acid was heated to 100° C for 10 minutes, then cooled and poured onto ice. After leaving the mixture to stand overnight, the solid residue was filtered off and washed with water. For further purification the residue was dissolved in cyclohexane, while warming, and animal charcoal/Tonsil were added. The mixture was then filtered and the filtrate was evaporated to dryness under reduced pressure. In this way 64 g (55.4% of theory) of acetylferrocene with a melting point of 84 to 86° C were obtained.

reactant | ferrocene | 0.5 mole, 93.0 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | acetylferrocene | 64 g, 55.4% | C(C)(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H7O.C5H5.Fe/c1-6(8)7-4-2-3-5-7;1-2-4-5-3-1;/h2-5H,1H3;1-5H;/q2*-1;+2
